US05034492
A polymerization inhibitor, p-methoxyphenol (1.24 g; 0.01 mole), was added to a mixture of 78 g (1.0 mole) of 2-mercaptoethanol, 133 g (1.0 mole) of a 30 % aqueous solution of sodium hydroxide and 0.15 liter of methanol. While the mixture was cooled to below 10° C., 152 g (1.0 mole) of m-(chloromethyl)styrene was added dropwise over 3 hours. Then, the reaction mixture was continuously stirred for an additional 3 hours to complete the reaction. Water (1 liter) was added to the reaction mixture to separate it into an oil layer and an aqueous layer. The oil layer was washed with water and distilled under reduced pressure (140°-150 ° C./1-2 mmHg) to give 105 g of 2-(3-vinylbenzylthio)ethanol as a colorless transparent liquid.

reactant | 2-mercaptoethanol | 1.0 mole, 78 g | SCCO | C2H6OS
reactant | sodium hydroxide | [OH-].[Na+]
reactant | methanol | 0.15 liter | CO | CH4O
reactant | m-(chloromethyl)styrene | 1.0 mole, 152 g | ClCC=1C=C(C=C)C=CC1 | C9H9Cl
catalyst | p-methoxyphenol | 0.01 mole, 1.24 g | COC1=CC=C(C=C1)O | C7H8O2
solvent | Water | 1 liter | O | H2O
product | 2-(3-vinylbenzylthio)ethanol | 105 g | C(=C)C=1C=C(CSCCO)C=CC1 | C11H14OS
